US07851072B2
Step 3: 2-phenyl-3,4,5-trimethylpyridine
10.2 g (0.051 mol) of 2-bromo-3,4,5-trimethylpyridine was mixed with 7.86 g (0.061 mol) of phenylboronic acid, 1.8 g (0.0016 mol) of Pd(Ph3)4, 19.1 g (0.13 mol) of K2CO3 50 mL of DME and 50 mL of water. The reaction mixture was refluxed for 20 hours and separated on silica gel column. MS confirmed the desired product.

reactant | 2-bromo-3,4,5-trimethylpyridine | 0.051 mol, 10.2 g | BrC1=NC=C(C(=C1C)C)C | C8H10BrN
reactant | phenylboronic acid | 0.061 mol, 7.86 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.13 mol, 50 mL, 19.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DME | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
product | 2-phenyl-3,4,5-trimethylpyridine | C1(=CC=CC=C1)C1=NC=C(C(=C1C)C)C | C14H15N
